US08629137B2
1-{1-[6-(4-methyl-2-oxo-2,3-dihydro-benzothiazole-6-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-1,3-dihydro-imidazo[4,5-b]pyridin-2-one
50 mg (0.23 mmol) 1-piperidin-4-yl-1,3-dihydroimidazo[4,5-b]pyridin-2-one, 70.6 mg (0.23 mmol) 6-(6-chloro-pyrimidine-4-carbonyl)-4-methyl-3H-benzothiazol-2-one and 0.05 mL (0.27 mmol) DIPEA were combined in 2 mL DMF and shaken overnight at RT. The reaction mixture was taken up in acetonitrile/water and purified by preparative HPLC. The fractions containing the product were combined and freeze-dried.

reactant | 1-piperidin-4-yl-1,3-dihydroimidazo[4,5-b]pyridin-2-one | 0.23 mmol, 50 mg | N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C11H14N4O
reactant | 6-(6-chloro-pyrimidine-4-carbonyl)-4-methyl-3H-benzothiazol-2-one | 0.23 mmol, 70.6 mg | ClC1=CC(=NC=N1)C(=O)C1=CC2=C(NC(S2)=O)C(=C1)C | C13H8ClN3O2S
reactant | DIPEA | 0.27 mmol, 0.05 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | acetonitrile water | C(C)#N.O
product | 1-{1-[6-(4-methyl-2-oxo-2,3-dihydro-benzothiazole-6-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-1,3-dihydro-imidazo[4,5-b]pyridin-2-one | CC1=CC(=CC2=C1NC(S2)=O)C(=O)C2=CC(=NC=N2)N2CCC(CC2)N2C(NC1=NC=CC=C12)=O | C24H21N7O3S
